US07179823B1
A mixture of (1-benzyl-5-phenyl-1H-pyrazol-4-yl)methanol (9.76 g), activated manganese dioxide (20.0 g), and tetrahydrofuran (200 ml) was stirred at room temperature for 12 hours. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 1-benzyl-5-phenyl-1H-pyrazole-4-carbaldehyde (7.30 g, yield: 75%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 99–100° C.

reactant | (1-benzyl-5-phenyl-1H-pyrazol-4-yl)methanol | 9.76 g | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CO | C17H16N2O
catalyst | manganese dioxide | 20.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-benzyl-5-phenyl-1H-pyrazole-4-carbaldehyde | 7.30 g, yield: 75% | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)C=O | C17H14N2O
